delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 29.775248
Rb B C 30.202794
Rc C A 30.565123
Cload B 0 8.47e-06
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i]
.endc
.end
